US09284284B2
b) 5-[3-(6-Bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholine-3-thione
To a suspension of 5-[3-(6-bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholin-3-one (52.6 mg, 0.127 mmol) in toluene (3 ml) was added Lawesson's reagent (51.2 mg, 0.127 mmol) and the reaction mixture was heated at 120° C. for 2 h. The solvent was evaporated and the title compound was purified by FC (cyclohexane:EtOAc 100:0 to 80:20).

reactant | 5-[3-(6-bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholin-3-one | 0.127 mmol, 52.6 mg | BrC1=CC=C2C(=NN(C2=C1)C)NC=1C=C(C=CC1)C1(COCC(N1)=O)C | C19H19BrN4O2
reactant | Lawesson's reagent | 0.127 mmol, 51.2 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(6-Bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholine-3-thione | BrC1=CC=C2C(=NN(C2=C1)C)NC=1C=C(C=CC1)C1(COCC(N1)=S)C | C19H19BrN4OS
